US07241810B2
Preparation 90: 4-{[tert-Butyl(dimethyl)silyl]oxy}-2-chlorobenzaldehyde
A solution of 2-chloro-4-hydroxybenzaldehyde (5.0 g, 32 mmol), tert-butyl(dimethyl)silyl chloride (5.3 g, 35 mmol), imidazole (2.9 g, 45 mmol) and N,N-dimethylaminopyridine (10 mg) in N,N-dimethylformamide (40 mL) was stirred at room temperature for 16 hours. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate (100 mL) and water (100 mL). The organic phase was separated, washed with brine (50 mL), dried over sodium sulfate and concentrated in vacuo. Purification by column chromatography on silica gel, eluting with pentane: ethyl acetate, 75:25 to 67:33, afforded the title compound as a colourless oil in 75% yield, 6.50 g. 1HNMR (400 MHz, CDCl3) δ: 0.25 (6H, s), 0.97 (9H, s), 6.80 (1H, dd), 6.87 (1H, d), 7.84 (1H, d), 10.32 (1H, s)

reactant | 2-chloro-4-hydroxybenzaldehyde | 32 mmol, 5.0 g | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | tert-butyl(dimethyl)silyl chloride | 35 mmol, 5.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 45 mmol, 2.9 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-2-chlorobenzaldehyde | 75% yield | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=O)C=C1)Cl | C13H19ClO2Si
